US06265404B1
A solution of 4-hydroxy-3-[(4-(N-methyl-N-(1-ethoxycarbonylcyclopent-1-yl)amino)-6-(3-(1-methylimidazolin-2-yl)phenoxy)-3,5-difluoropyridin-2-yl)oxy]benzamidine, trifluoroacet acid salt (0.80 g, 1.2 mmol) in 25 mL of 6 N aqueous HCl was stirred at 60° C. for 1 hour. It was then cooled to ambient temperature, diluted with acetonitrile and trifluoroacetic acid and purified by HPLC on a C18 Dynamax column with 20-80% acetonitrile in water gradient with 0.1% trifluoroacetic acid to afford 4-hydroxy-3-[(4-(N-methyl-N-(1-carboxycyclopent-1-yl)amino)-6-(3-(1-methylimidazolin-2-yl)phenoxy)-3,5-difluoropyridin-2-yl)oxy]benzamidine, trifluoroacet acid salt as a white solid: NMR (DMSO-d6)/TFA) 10.2 (br s, 1), 9.0 (br s , 2), 8.8 (br s, 2), 7.3-7.6, (m, 6), 7.0 (d, 2), 4.1 (m, 2), 3.9 (m, 2), 3.2 (s, 3), 3.0 (s, 3), 2.9 (s, 3), 2.1 (m, 4), 1.6-1.8 n(m, 4) ppm.

reactant | 4-hydroxy-3-[(4-(N-methyl-N-(1-ethoxycarbonylcyclopent-1-yl)amino)-6-(3-(1-methylimidazolin-2-yl)phenoxy)-3,5-difluoropyridin-2-yl)oxy]benzamidine | OC1=C(C=C(C(=N)N)C=C1)OC1=NC(=C(C(=C1F)N(C1(CCCC1)C(=O)OCC)C)F)OC1=CC(=CC=C1)C=1N(CCN1)C | C31H34F2N6O5
solvent | HCl | 6 N, 25 mL | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4-hydroxy-3-[(4-(N-methyl-N-(1-carboxycyclopent-1-yl)amino)-6-(3-(1-methylimidazolin-2-yl)phenoxy)-3,5-difluoropyridin-2-yl)oxy]benzamidine | OC1=C(C=C(C(=N)N)C=C1)OC1=NC(=C(C(=C1F)N(C1(CCCC1)C(=O)O)C)F)OC1=CC(=CC=C1)C=1N(CCN1)C | C29H30F2N6O5
